US06645990B2
8] To 6-bromo-2-pyridinecarboxaldehyde (400 mg, 2.15 mmol) was added 3-hydroxypiperidine (326 mg, 3.22 mmol) in dry CH2Cl2 (15 mL) to give 2-bromo-6-(3-hydroxypiperidinyl)methyl pyridine as pale yellow solid. MS m/z: 271.2 (M+H). Calc'd for C11H15BrN2O: 271.15.

reactant | 6-bromo-2-pyridinecarboxaldehyde | 2.15 mmol, 400 mg | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 3-hydroxypiperidine | 3.22 mmol, 326 mg | OC1CNCCC1 | C5H11NO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-6-(3-hydroxypiperidinyl)methyl pyridine | BrC1=NC(=CC=C1)CN1CC(CCC1)O | C11H15BrN2O
